US04729781
Step A: 3,6-Dichloro-2-methoxybenzoylhydrazine
To a solution of 0.22 mol. hydrazine in 100 ml. chloroform at -10° C. was added 0.1 mol. of 3,6-dichloro-2-methoxybenzoyl chloride. The mixture was stirred at ambient temperature for 2 hours, filtered, and the filtrate evaporated in vacuo. The residue was crystallized from methanol and water, then recrystallized from chloroform and hexane to obtain the titled product, m.p. 144°-145° C.

reactant | hydrazine | NN | H4N2
reactant | 3,6-dichloro-2-methoxybenzoyl chloride | ClC=1C(=C(C(=O)Cl)C(=CC1)Cl)OC | C8H5Cl3O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,6-Dichloro-2-methoxybenzoylhydrazine | ClC=1C(=C(C(=O)NN)C(=CC1)Cl)OC | C8H8Cl2N2O2
